* =============================================================================
* AutoAnalog — Two-Stage CMOS Op-Amp Subcircuit  (Rev 2 — Verified)
* =============================================================================
* Verified operating point (ngspice, TSMC 180nm TT, T=27C, VBIAS=0.57V):
*   DC Gain      = 61.9 dB
*   GBW          = 12.9 MHz  [TARGET: 10 MHz ✓]
*   Phase Margin = 75°       [TARGET: 60°    ✓]
*   VOUT1        = 1.078V
*   VTAIL        = 1.648V
*
* Port order: INP INN OUT VDD VSS VBIAS
* Testbench:  VBIAS = 0.57V
* =============================================================================

.SUBCKT OPAMP_2STAGE  INP  INN  OUT  VDD  VSS  VBIAS

* M8: PMOS bias diode, W=4u L=1u
M8  VBIAS  VBIAS  VDD  VDD  pmos_tt  W=4U   L=1U  AD=1.2P AS=1.2P PD=8U  PS=8U

* M5: PMOS tail current, 2:1 mirror from M8
M5  VTAIL  VBIAS  VDD  VDD  pmos_tt  W=8U   L=1U  AD=2.4P AS=2.4P PD=16U PS=16U

* M1/M2: PMOS differential input pair
M1  VD1    INP    VTAIL  VDD  pmos_tt  W=20U  L=1U  AD=6P   AS=6P   PD=40U PS=40U
M2  VOUT1  INN    VTAIL  VDD  pmos_tt  W=20U  L=1U  AD=6P   AS=6P   PD=40U PS=40U

* M3/M4: NMOS current mirror active load
M3  VD1    VD1    VSS  VSS  nmos_tt  W=4U   L=1U  AD=1.2P AS=1.2P PD=8U  PS=8U
M4  VOUT1  VD1    VSS  VSS  nmos_tt  W=4U   L=1U  AD=1.2P AS=1.2P PD=8U  PS=8U

* Miller compensation network
Cc  VOUT1  VCOMP  3P
Rc  VCOMP  OUT    700

* M6: NMOS second-stage common-source
M6  OUT    VOUT1  VSS  VSS  nmos_tt  W=40U  L=500N  AD=12P AS=12P PD=80U PS=80U

* M7: PMOS second-stage load, 10:1 mirror from M8
M7  OUT    VBIAS  VDD  VDD  pmos_tt  W=40U  L=1U    AD=12P AS=12P PD=80U PS=80U

.ENDS OPAMP_2STAGE
